US09388189B2
a) 4,6-Dichloro-N-(3-methoxy-5-(methylsulfonamido)phenyl)pyrimidine-5-carboxamide
N-(3-Amino-5-methoxyphenyl)methanesulfonamide (1 g, 87% purity, 4.02 mmol) was dissolved in dichloromethane (36 ml) and triethylamine (1.35 ml, 9.65 mmol) was added. Then a solution of 4,6-dichloropyrimidine-5-carbonyl chloride (1.52 g, 67% purity, 4.82 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was added dropwise and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude was purified by flash chromatography (0% to 40%, hexane-ethyl acetate) using an Isolera® Purification System to give 617 mg (28% yield) of the title compound as a reddish oil. Purity 73%.

reactant | N-(3-Amino-5-methoxyphenyl)methanesulfonamide | 4.02 mmol, 1 g | NC=1C=C(C=C(C1)OC)NS(=O)(=O)C | C8H12N2O3S
reactant | triethylamine | 9.65 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 4.82 mmol, 1.52 g | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
solvent | dichloromethane | 36 ml | ClCCl | CH2Cl2
product | 4,6-Dichloro-N-(3-methoxy-5-(methylsulfonamido)phenyl)pyrimidine-5-carboxamide | 617 mg, 28% yield | ClC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)NS(=O)(=O)C)OC)Cl | C13H12Cl2N4O4S
